US08003800B2
A solution of 3-(2-methyl-allyl)-pentane-2,4-dione (2.48 g, 16 mmol) in DCM (10 mL) is cooled at −78° C. and DIPEA (17 mL, 98 mmol) is slowly added. The mixture is stirred for 0.5 h at −78° C., then a solution of trifluoromethanesulfonic anhydride (3.18 mL, 19.3 mmol) in DCM (15 mL) is slowly added keeping the temperature at below −65° C. The red-brown solution is stirred for 0.5 h at −78° C. and then quenched with ice (50 g) and diethyl ether (200 mL). The phases are separated, the organic phase washed with 1M aq. KHSO4 solution and brine, dried with Na2SO4, filtered and evaporated. The residue is purified by reversed phase MPLC (H2O-MeOH gradient) to give 1.16 g of trifluoromethanesulfonic acid 2-acetyl-1,4-dimethyl-penta-1,4-dienyl ester; LC-MS: tR=1.03 min, [M+1]+=287.01.

reactant | 3-(2-methyl-allyl)-pentane-2,4-dione | 16 mmol, 2.48 g | CC(CC(C(C)=O)C(C)=O)=C | C9H14O2
reactant | DIPEA | 98 mmol, 17 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 19.3 mmol, 3.18 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | trifluoromethanesulfonic acid 2-acetyl-1,4-dimethyl-penta-1,4-dienyl ester | 1.16 g | C(C)(=O)C(=C(C)OS(=O)(=O)C(F)(F)F)CC(=C)C | C10H13F3O4S
